US04263207
Dibenzo[b,f][1,4]thiazepin-7-carboxylic Acid
Repeat the procedures of Examples 9 and 10, substituting an equivalent quantity of methyl 11-chlorodibenzo[b,f][1,4]thiazepin-7-carboxylate for the methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate employed in Example 9, in order to obtain the title product.

reactant | methyl 11-chlorodibenzo[b,f][1,4]thiazepin-7-carboxylate | ClC1=NC2=C(SC3=C1C=CC=C3)C=C(C=C2)C(=O)OC | C15H10ClNO2S
reactant | methyl 11-chlorodibenzo[b,f][1,4]thiazepin-3-carboxylate | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)OC)C=CC=C2 | C15H10ClNO2S
product | Dibenzo[b,f][1,4]thiazepin-7-carboxylic Acid | C1=CC=CC2=C1C=NC1=C(S2)C=C(C=C1)C(=O)O | C14H9NO2S
